US08134004B2
Step CA2C: 6-tert-Butylquinoline-2-carboxylic acid
A solution of 6-tert-butylquinoline-2-carbonitrile (295 mg, 1.40 mmol) and 2M-aqueous sodium hydroxide (3 ml) in EtOH (4.5 ml) was stirred for 4 hours at reflux. The mixture was diluted with water (10 ml), neutralized by 2M-aqueous hydrochloride and extracted with EtOAc (30 ml). The organic layer was dried over sodium sulfate, filtrated, and concentrated in vacuo to furnish the title compound (313 mg, quant.) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 1.40 (9H, s), 7.93-7.97 (2H, m), 8.01-8.11 (2H, m), 8.41 (1H, d, J=8.1 Hz) MS (ESI): m/z 230 (M+H)+.

reactant | 6-tert-butylquinoline-2-carbonitrile | 1.40 mmol, 295 mg | C(C)(C)(C)C=1C=C2C=CC(=NC2=CC1)C#N | C14H14N2
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrochloride | Cl | ClH
reactant | EtOH | 4.5 ml | CCO | C2H6O
solvent | water | 10 ml | O | H2O
product | 6-tert-Butylquinoline-2-carboxylic acid | 313 mg | C(C)(C)(C)C=1C=C2C=CC(=NC2=CC1)C(=O)O | C14H15NO2
